US06699896B1
4-(4′-Methoxy-biphenyl-4-yl)-5-methyl-2-(4-trifluoromethyl-phenyl)-oxazole
4-Methoxy-benzeneboronic acid (1.44 g, 7.19 mmol) in ethyl alcohol (5 mL) was added into a mixture of 4-(4-bromo-phenyl)-5-methyl-2-(4-trifluoromethyl-phenyl)-oxazole (2.5 g, 6.54 mmol), sodium carbonate (2N, 6.5 mL), tetrakis(triphenylphosphine)palladium(0) (0.23 g, 0.196 mmol), and toluene (200 mL). The reaction mixture was refluxed for 12 hours, cooled to room temperature, and treated with hydrogen peroxide (30%, 5 mL) for 1 hour. Then, the mixture was poured into water and extracted with ethyl acetate. The organic extracts were dried over MgSO4. Evaporation and crystallization from hexanes/ethyl ether gave a white solid (2.2 g, 82% yield): mp 167-168° C.; MS m/e 409 (M+);

reactant | 4-Methoxy-benzeneboronic acid | 7.19 mmol, 1.44 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | 4-(4-bromo-phenyl)-5-methyl-2-(4-trifluoromethyl-phenyl)-oxazole | 6.54 mmol, 2.5 g | BrC1=CC=C(C=C1)C=1N=C(OC1C)C1=CC=C(C=C1)C(F)(F)F | C17H11BrF3NO
reactant | sodium carbonate | 2N, 6.5 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrogen peroxide | 5 mL | OO | H2O2
solvent | ethyl alcohol | 5 mL | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.196 mmol, 0.23 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(4′-Methoxy-biphenyl-4-yl)-5-methyl-2-(4-trifluoromethyl-phenyl)-oxazole | 2.2 g, 82% yield | COC1=CC=C(C=C1)C1=CC=C(C=C1)C=1N=C(OC1C)C1=CC=C(C=C1)C(F)(F)F | C24H18F3NO2
